US07470724B2
To a solution of [4-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyloxymethyl]-phosphonic acid (49 mg, 0.13 mmol) in DMF (0.4 mL) and phenol (62 mg, 0.65 mmol) was added dicyclohexyl carbodiimide (107 mg, 0.52 mmol) and DMAP (8 mg, 0.065 mmol) in DMF (0.6 mL), slowly at 0° C. The reaction was allowed to warm to room temperature and heated to 140° C. for 10 hours. After cooling to room temperature the mixture was filtered and extracted with aqueous 1N NaOH solution. The aqueous layer was acidified with aqueous 1N HCl and extracted with EtOAc. The organic layer was dried over Na2SO4 and concentrated to dryness. The residue was purified by RP HPLC to provide 18.5 mg of [4-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyloxymethyl]-phosphonic acid monophenyl ester, as a pale yellow solid and 4.1 mg of [4-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyloxymethyl]-phosphonic acid diphenyl ester (minor product) also as a pale yellow solid. Major product: 1H NMR (300 MHz, CD3OD) δ 1.82 (s, 3H), 2.16 (s, 3H), 3.46 (d, 2H, J=7 Hz), 3.70 (d, 2H, J=8 Hz), 3.77 (s, 3H), 3.96 (s, 2H), 5.25 (s, 2H), 5.52 (t, 1H, J=8 Hz), 7.10-7.21 (m, 3H), 7.30 (t, 2H, J=8 Hz) ppm; 31P (121.4 MHz, CD3OD) δ 17.3 ppm; MS (m/z) 449.0 [M+H]+, 471.2 [M+Na]+. Minor product: 1H NMR (300 MHz, CD3OD) δ 1.82 (s, 3H), 2.15 (s, 3H), 3.47 (d, 2H, J=7 Hz), 3.77 (s, 3H), 3.98-4.06 (m, 4H), 5.25 (s, 2H), 5.50-5.61 (m, 1H), 7.10-7.25 (m, 6H), 7.30-7.41 (m, 4H) ppm; 31P (121.4 MHz, CD3OD) δ 16.3 ppm; MS (m/z) 525.2 [M+H]+, 547.2 [M+Na]+.

reactant | [4-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyloxymethyl]-phosphonic acid | 0.13 mmol, 49 mg | OC1=C2C(OCC2=C(C(=C1CC=C(COCP(O)(O)=O)C)OC)C)=O | C16H21O8P
reactant | phenol | 0.65 mmol, 62 mg | C1(=CC=CC=C1)O | C6H6O
reactant | dicyclohexyl carbodiimide | 0.52 mmol, 107 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DMF | 0.4 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.065 mmol, 8 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
product | [4-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyloxymethyl]-phosphonic acid monophenyl ester | 18.5 mg | C1(=CC=CC=C1)OP(O)(=O)COCC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C | C22H25O8P
